US07485644B2
To a stirred solution of the 4-pyrimidin-2-yl-1-({4-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]piperazin-1-yl}sulfonyl)butan-2-ol (13.7 g, 28.8 mmol) in DCM (250 mL) at 0° C. was added methanesulfonyl chloride (2.68 mL, 34.6 mmol). The reaction was stirred at 0° C. for 20 minutes before dropwise addition of triethylamine (18.1 mL, 129 mmol). Warmed to room temperature and stirred for 16 hours. The reaction mixture was then diluted with DCM (1 L), washed with water (150 mL) and dried (brine, MgSO4), filtered and concentrated in vacuo. The residue was then purified by flash chromatography (silica, 0-5% MeOH in DCM) to give 2-[(3E)-4-({4-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]piperazin-1-yl}sulfonyl)but-3-en-1-yl]pyrimidine as a yellow solid (11.9 g, 18.6 mmol, 90%).

reactant | 4-pyrimidin-2-yl-1-({4-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]piperazin-1-yl}sulfonyl)butan-2-ol | 28.8 mmol, 13.7 g | N1=C(N=CC=C1)CCC(CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=C1)OCC(F)(F)F)O | C19H24F3N5O4S
reactant | methanesulfonyl chloride | 34.6 mmol, 2.68 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 129 mmol, 18.1 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 L | C(Cl)Cl | CH2Cl2
product | 2-[(3E)-4-({4-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]piperazin-1-yl}sulfonyl)but-3-en-1-yl]pyrimidine | 18.6 mmol, 11.9 g, 90% | FC(COC=1C=CC(=NC1)N1CCN(CC1)S(=O)(=O)/C=C/CCC1=NC=CC=N1)(F)F | C19H22F3N5O3S
